US04835175
38 g of 4-[N-benzyl-N-(2-methoxycarbonyl-1-methylethyl)aminoacetyl]-7-benzyloxyindole-2-carboxylic acid ethyl ester is stirred at room temperature for 4 hours in a mixture of 1 liter of tetrahydrofuran, 1 liter of methanol, and 350 ml of 2N sodium hydroxide solution. The reaction mixture is then acidified with 2N hydrochloric acid, concentrated until the onset of crystallization, cooled in an ice bath, and the resultant crystals are vacuum-filtered, thus producing 25.8 g of 4-[N-benzyl-N-(2-carboxy-1-methylethyl)aminoacetyl]-7-benzyloxyindole-2-carboxylic acid hydrochloride, decomposing from 150° C. on.

reactant | 4-[N-benzyl-N-(2-methoxycarbonyl-1-methylethyl)aminoacetyl]-7-benzyloxyindole-2-carboxylic acid ethyl ester | 38 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(CC(=O)OC)C)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C32H34N2O6
reactant | methanol | 1 liter | CO | CH4O
reactant | sodium hydroxide | 2N, 350 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 4-[N-benzyl-N-(2-carboxy-1-methylethyl)aminoacetyl]-7-benzyloxyindole-2-carboxylic acid hydrochloride | 25.8 g | Cl.C(C1=CC=CC=C1)N(C(CC(=O)O)C)CC(=O)C1=C2C=C(NC2=C(C=C1)OCC1=CC=CC=C1)C(=O)O | InChI=1S/C29H28N2O6.ClH/c1-19(14-27(33)34)31(16-20-8-4-2-5-9-20)17-25(32)22-12-13-26(37-18-21-10-6-3-7-11-21)28-23(22)15-24(30-28)29(35)36;/h2-13,15,19,30H,14,16-18H2,1H3,(H,33,34)(H,35,36);1H
